US04762853
Ethyl 5-hydroxy-7-(2-methylphenyl)-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate
10 mmol of ethyl 7-(2-methylphenyl)-5-methylamino-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate are dissolved in 50 mmol of THF, 3 ml of concentrated HCl and 5 ml of water are added, and the mixture is boiled for 1 hour and then concentrated. The substance is identical to that from Example 3a.

reactant | ethyl 7-(2-methylphenyl)-5-methylamino-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate | 10 mmol | CC1=C(C=CC=C1)C1C(=C(CC2=C1C(OC2)=O)NC)C(=O)OCC | C19H21NO4
reactant | THF | 50 mmol | C1CCOC1 | C4H8O
reactant | HCl | 3 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | Ethyl 5-hydroxy-7-(2-methylphenyl)-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate | OC=1CC2=C(C(OC2)=O)C(C1C(=O)OCC)C1=C(C=CC=C1)C | C18H18O5
